US08232403B2
To a mixture of crude 8-[2-(benzyloxy)ethyl]-1,4-dioxaspiro[4.5]decane (227.8 g) in THF (500 mL) is added 5N HCl (600 mL) at room temperature, and the mixture is stirred for 10 hours at the same temperature. After addition of NaHCO3 aq. (300 g in 500 mL water), the mixture is extracted with EtOAc (1500 mL). The water layer is extracted with EtOAc (1000 mL×2), and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude mixture is purified by silica gel column chromatography to afford 4-(2-benzyloxyethyl)cyclohexanone.

reactant | 8-[2-(benzyloxy)ethyl]-1,4-dioxaspiro[4.5]decane | 227.8 g | C(C1=CC=CC=C1)OCCC1CCC2(OCCO2)CC1 | C17H24O3
reactant | HCl | 5N, 600 mL | Cl | ClH
reactant | NaHCO3 | 500 mL, 300 g | C(=O)(O)[O-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-(2-benzyloxyethyl)cyclohexanone | C(C1=CC=CC=C1)OCCC1CCC(CC1)=O | C15H20O2
